US08110579B2
According to the method described in example 4.5, starting from 1.5 g (2.99 mmol) of methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-{[(trifluoromethyl)sulphonyl]oxy}nicotinate and of 508 mg (3.74 mmol) of 2-methylphenyl boronic acid, we obtain 1.26 g of methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-(2-methylphenyl)nicotinate in the form of oil.

reactant | methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-{[(trifluoromethyl)sulphonyl]oxy}nicotinate | 2.99 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F | C21H15ClF3NO6S
reactant | 2-methylphenyl boronic acid | 3.74 mmol, 508 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-(2-methylphenyl)nicotinate | 1.26 g, Yield=95% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)OC)C1)C1=C(C=CC=C1)C | C27H22ClNO3
